US07160882B2
c) 5-acetyl-7-benzyloxy-3,4-dihydro-1H-quinolin-2-one
A suspension of methyl 3-(2-acetyl-4-benzyloxy-6-nitrophenyl)-acrylate (5.0 g, 14.07 mmol) in ethanol (100 mL) is hydrogenated with Raney nickel (3 g) at ambient temperature and 4 bar hydrogen pressure. After 6 hours more Raney nickel (2 g) is added and the mixture is hydrogenated for a further 2 hours. The catalyst is separated off and the filtrate is combined with 2 M aqueous hydrochloric acid (15 mL). The product that crystallises out is filtered off and dried.

reactant | methyl 3-(2-acetyl-4-benzyloxy-6-nitrophenyl)-acrylate | 14.07 mmol, 5.0 g | C(C)(=O)C1=C(C(=CC(=C1)OCC1=CC=CC=C1)[N+](=O)[O-])C=CC(=O)OC | C19H17NO6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Raney nickel | 3 g | [Ni] | Ni
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 5-acetyl-7-benzyloxy-3,4-dihydro-1H-quinolin-2-one | C(C)(=O)C1=C2CCC(NC2=CC(=C1)OCC1=CC=CC=C1)=O | C18H17NO3
